US07737135B2
a) 4-bromo-N-(1,1-dimethylethyl)-2-methyl-benzamide
The sub-title compound was prepared by the method of example 18 step a) using 4-bromo-2-methylbenzoic acid and tertiarybutylamine.

reactant | 4-bromo-2-methylbenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | tertiarybutylamine | C(C)(C)(C)N | C4H11N
product | 4-bromo-N-(1,1-dimethylethyl)-2-methyl-benzamide | BrC1=CC(=C(C(=O)NC(C)(C)C)C=C1)C | C12H16BrNO
